US09359358B2
Step 8: {1-(cis-4-{[6-[(Dimethylamino)methyl]-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile
[6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate (450.0 mg, 0.5906 mmol) was dissolved in tetrahydrofuran (10.00 mL) and 2.0 M dimethylamine in tetrahydrofuran (4.00 mL, 8.00 mmol) was added. The reaction were stirred at 25° C. for 16 hours at which time LCMS analysis showed that the reaction was completed. The solvent was then removed and the product was used in the next reaction without purification. MS (ES): 711(M+1).

reactant | [6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate | 0.5906 mmol, 450.0 mg | CS(=O)(=O)OCC1=NC(=NC(=C1)O[C@@H]1CC[C@@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N)C(F)(F)F | C33H42F3N9O5SSi
reactant | dimethylamine | 2.0 M | CNC | C2H7N
solvent | tetrahydrofuran | 10.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.00 mmol, 4.00 mL | O1CCCC1 | C4H8O
product | {1-(cis-4-{[6-[(Dimethylamino)methyl]-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile | CN(C)CC1=CC(=NC(=N1)C(F)(F)F)O[C@H]1CC[C@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C34H45F3N10O2Si
